US05538812
Preparation of 2,4,6-tris(trifluoromethylthio)phenol (4)
Condensed 32.5 g of trifluoromethylsulphenyl chloride was placed in a pressured bottle in a dry ice bath. 60 ml of chilled chloroform was added under nitrogen, followed by the addition of 5.6 g of phenol in 16 g of pyridine and 0.8 g of iron powder. The mixture was stirred in a closed bottle at room temperature for two days. The solution was then washed with water and diluted with hydrochloric acid. After removal of the solvent, the crude product was distilled with a column. The yield was 10 g. The b.p. was 51° C./0.1 mm. NMR (CDCl3), δ 8.1 (s) ppm.

reactant | trifluoromethylsulphenyl chloride | 32.5 g | FC(SCl)(F)F | CClF3S
reactant | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
reactant | phenol | 5.6 g | C1(=CC=CC=C1)O | C6H6O
solvent | pyridine | 16 g | N1=CC=CC=C1 | C5H5N
solvent | iron | 0.8 g | [Fe] | Fe
product | 2,4,6-tris(trifluoromethylthio)phenol | FC(SC1=C(C(=CC(=C1)SC(F)(F)F)SC(F)(F)F)O)(F)F | C9H3F9OS3
